US04471139
1-Methoxy-3-oxo-butylmercaptoacetaldehyde Dimethyl Acetal
To a solution of 2.3 g. (18.9 mmol) of 4-methoxy-3-buten-2-one and 50 mg. K2CO3 in 15 ml. of methanol was added 1.88 g. (18.9 mmol) of 2-mercaptoacetaldehyde dimethyl acetal and the reaction mixture heated to reflux for 10 minutes. On cooling, the methanol was removed by rotatory evaporation, 25 ml. of ether was added and the solution was extracted with water, brine, and dried over anhydrous magnesium sulfate. Filtration and removal of solvent afforded 2.95 g. (70%) of water white oil homogeneous by TLC (SiO2), tetrahydrofuran/ether, 1:1; Mol. dist. 140° (0.2 mm Hg), 1H-NMR (CDCl3) delta 2.21 (s, 3), 2.66-3.11 (m, 4), 3.42 (s, 9), 4.44 (t, 1), 4.89 (doublet of doublets, 1); IR (film) cm-1 1710 (s).

reactant | 4-methoxy-3-buten-2-one | 18.9 mmol | COC=CC(C)=O | C5H8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | methanol | CO | CH4O
reactant | 2-mercaptoacetaldehyde dimethyl acetal | 18.9 mmol | COC(CS)OC | C4H10O2S
solvent | tetrahydrofuran ether | O1CCCC1.CCOCC
solvent | water | O | H2O
product | 1-Methoxy-3-oxo-butylmercaptoacetaldehyde Dimethyl Acetal | COC(CSCCC(C)=O)(OC)OC | C9H18O4S
